US06172077B2
2-Benzyloxy-5-nitroiodobenzene
Chloramine-T trihydrate (36 g, 127 mmol) was added to a mixture of 4-nitrophenol (15 g, 107 mmol) and sodium iodide (19.1 g, 127 mmol) in DMF (300 ml) at room temperature. The resulting dark red mixture was stirred at room temperature for 3 hours, poured into water (1.2 litres), acidified to pH 1 with aqueous hydrochloric acid (1M) and extracted with ethyl acetate. The organic extract was washed with sodium thiosulphate solution (10%) and brine, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel eluting with hexane/ethyl acetate (50:50). The residue was dissolved in DMF (75 ml) and benzyl bromide (10.7 ml, 90 mmol) and potassium carbonate (66 g, 480 mmol) were added. The mixture was stirred at room temperature over night, poured into water (1 litre) and extracted with ethyl acetate. The organic extract was washed with brine, dried (MgSO4), and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel eluting with hexane/dichloromethane/ethyl acetate (50:50:1) to give the title compound as a colorless solid (24.3 g, 64%). 1H NMR (360 MHz, CDCl3) δ 8.70 (1H, d, J 2.7 Hz), 8.21 (1H, dd, J 9.13, 2.7 Hz), 7.48−7.34 (5H, m), 6.89 (1H, d, J 9.14 Hz), and 5.27 (2H, s).

reactant | Chloramine-T trihydrate | 127 mmol, 36 g | CC1=CC=C(C=C1)S(=O)(=O)[N-]Cl.O.O.O.[Na+]
reactant | 4-nitrophenol | 107 mmol, 15 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | sodium iodide | 127 mmol, 19.1 g | [I-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
reactant | benzyl bromide | 90 mmol, 10.7 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 480 mmol, 66 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | water | 1 litre | O | H2O
solvent | water | 1.2 litres | O | H2O
product | 2-Benzyloxy-5-nitroiodobenzene | 24.3 g, 64% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])I | C13H10INO3
